### PR TITLE
[Merged by Bors] - chore: golf using `simp`

### PR DESCRIPTION
**Pull request by euprunin**

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Orthonormal.lean [hunk 1]
```diff
@@ -96,13 +96,7 @@ equals Kronecker delta.) -/
...
     Orthonormal 𝕜 (Subtype.val : s → E) ↔ ∀ v ∈ s, ∀ w ∈ s, ⟪v, w⟫ = if v = w then 1 else 0 := by
   rw [orthonormal_iff_ite]
-  constructor
-  · intro h v hv w hw
-    convert h ⟨v, hv⟩ ⟨w, hw⟩ using 1
-    simp
-  · rintro h ⟨v, hv⟩ ⟨w, hw⟩
-    convert h v hv w hw using 1
-    simp
+  simp
```
Comment (grunweg) [inline Mathlib/Analysis/InnerProductSpace/Orthonormal.lean:99]: Flagging this for double-checking: is there any defeq abuse happening now?

File: Mathlib/CategoryTheory/Monoidal/Hopf_.lean [hunk 2]
```diff
@@ -290,11 +290,6 @@ theorem mul_antipode₁ (A : C) [Hopf_Class A] :
     rw [associator_naturality_left]
   slice_lhs 8 9 =>
     rw [← tensorHom_def]
-  simp only [Category.assoc, pentagon_inv_inv_hom_hom_inv_assoc]
-  slice_lhs 1 7 =>
-    rw [Bimon_.compatibility]
-  slice_lhs 2 4 =>
-    rw [antipode_left]
```
Comment (grunweg) [inline Mathlib/CategoryTheory/Monoidal/Hopf_.lean:297]: Flagging this for double-checking: is there any defeq abuse happening now?

File: Mathlib/Data/Int/Bitwise.lean [hunk 3]
```diff
@@ -270,16 +264,7 @@ theorem bitwise_xor : bitwise xor = Int.xor := by
...
-  · congr
-    funext x y
-    cases x <;> cases y <;> rfl
-  · congr
-    funext x y
-    cases x <;> cases y <;> rfl
-  · congr
-    funext x y
-    cases x <;> cases y <;> rfl
+      Int.xor, HXor.hXor, Xor.xor, Nat.xor] <;> simp
```
Comment (grunweg) [inline Mathlib/Data/Int/Bitwise.lean:267]: Can you combine these calls?

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 4]
```diff
@@ -405,11 +405,6 @@ theorem liftAux_tprod (φ : MultilinearMap R s E) (f : Π i, s i) : liftAux φ (
   -- show _ • _ = _
   -- rw [one_smul]
   erw [AddCon.lift_coe]
-  rw [FreeAddMonoid.of]
-  dsimp [FreeAddMonoid.ofList]
-  rw [← one_smul R (φ f)]
-  erw [Equiv.refl_apply]
-  convert one_smul R (φ f)
   simp
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:408]: Flagging this for double-checking: is there any defeq abuse happening now?

**Review by grunweg — COMMENTED** [review]
Thanks for doing this. I think a few places ought to be checked carefully, and we should benchmark this. But the shortening is really nice!

**Comment by grunweg** [comment]
!bench

**Comment by grunweg** [comment]
Benchmarks look fine (or noisy) - so this is ready for another look. I'd appreciate close eyes on the three places I flagged. Otherwise, this looks like a straightforward golf.
maintainer merge?

File: Mathlib/Data/Int/Bitwise.lean (hunk 3 above)
Comment (euprunin) [reply Mathlib/Data/Int/Bitwise.lean:267]: Do you mean combine the `simp only  […]` and the `simp`? I think the `simp only […]` could be shortened, but we’d still need both a `simp only […]` and a final `simp`, since we don’t want to use `simp only […]` as the terminal tactic, right?

**Comment by kim-em** [comment]
LGTM, thanks.

bors merge

File: Mathlib/Data/Int/Bitwise.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Data/Int/Bitwise.lean:267]: The change I wanted you to try was replacing `simp only [X, Y, Z] ; simp` by `simp [X, Y, Z]`: if the latter works, I consider it preferable.
